US06083961
To a solution of 4-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyloxy]-1-ethoxycarbonylmethyl-2-ethyl-1H-benzimidazole (270 mg) in ethanol (3 ml) was added 1N sodium hydroxide solution (0.44 ml), and the mixture was stirred for 2 hours at ambient temperature. The reaction mixture was acidified with 1N hydrochloric acid, and the solvent was removed in vacuo. The residue was pulverized with 99% acetonitrile to give 1-carboxymethyl-4-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyloxy]-2-ethyl-1H-benzimidazole (280 mg) as pale yellow solid.

reactant | 4-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyloxy]-1-ethoxycarbonylmethyl-2-ethyl-1H-benzimidazole | 270 mg | ClC1=C(COC2=CC=CC=3N(C(=NC32)CC)CC(=O)OCC)C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl | C34H35Cl2N5O6
reactant | sodium hydroxide | 1N, 0.44 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1-carboxymethyl-4-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyloxy]-2-ethyl-1H-benzimidazole | 280 mg | C(=O)(O)CN1C(=NC2=C1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(CNC(C=CC2=CC=C(C=C2)C(NC)=O)=O)=O)C)Cl)CC | C32H31Cl2N5O6
